US04521418
Equimolar amounts of 5-(6-methyl-3-pyridylmethyl)-2-methylthio-4-pyrimidone and 2-(2-guanidino-4-thiazolylmethylthio)ethylamine are refluxed together with pyridine for 48 hours to give 2-[2-(2-guanidino-4-thiazolylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone.

reactant | 5-(6-methyl-3-pyridylmethyl)-2-methylthio-4-pyrimidone | CC1=CC=C(C=N1)CC=1C(NC(=NC1)SC)=O | C12H13N3OS
reactant | 2-(2-guanidino-4-thiazolylmethylthio)ethylamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[2-(2-guanidino-4-thiazolylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C18H22N8OS2
